US06300514B1
2-t-butoxycarbonylamino-3-(4-methoxyphenylthio)propionic acid benzyl ester
To a solution of 2-t-butoxycarbonylamino-3-hydroxypropionic acid benzyl ester (29.5 g) in dichloromethane (300 ml), triethylamine (21 ml) and mesyl chloride (8.6 ml) were added and the reaction solution was stirred for 30 minutes at 4° C. The reaction solution was added to 1 N hydrochloric acid cooling with ice. The obtained yellow oil was dissolved into dichloromethane (300 ml), and diisopropylethylamine (17 ml) and 4-methoxybenzenethiol (12 ml) were added thereto at 4° C. and the reaction solution was stirred for 3 hours at room temperature and concentrated. The residue was purified by column chromatography (n-hexane:ethyl acetate=8:1) to give the title compound (24.8 g) having the following physical data.

reactant | 2-t-butoxycarbonylamino-3-hydroxypropionic acid benzyl ester | 29.5 g | C(C1=CC=CC=C1)OC(C(CO)NC(=O)OC(C)(C)C)=O | C15H21NO5
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | diisopropylethylamine | 17 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxybenzenethiol | 12 ml | COC1=CC=C(C=C1)S | C7H8OS
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
solvent | mesyl chloride | 8.6 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 2-t-butoxycarbonylamino-3-(4-methoxyphenylthio)propionic acid benzyl ester | 24.8 g | C(C1=CC=CC=C1)OC(C(CSC1=CC=C(C=C1)OC)NC(=O)OC(C)(C)C)=O | C22H27NO5S
